US04433149
A mixture of 4-chloro-1,2-dinitrobenzene (3.31 mmol) and diethyl methylphosphonite (5.30 mmol) in 3 ml of acetonitrile is stirred at RT overnight. The mixture is then concentrated and the residue is purified by preparative TLC to yield ethyl P-methyl-2-nitro-5-chlorophenylphosphinate.

reactant | 4-chloro-1,2-dinitrobenzene | 3.31 mmol | ClC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | diethyl methylphosphonite | 5.30 mmol | CP(OCC)OCC | C5H13O2P
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | ethyl P-methyl-2-nitro-5-chlorophenylphosphinate | CP(OCC)(=O)C1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C9H11ClNO4P
